US08134007B2
2-Bromo-1-(2-methoxypropoxy)-benzene
2-Bromophenol (861 mg, 4.97 mmol) and 1-bromo-3-methoxypropane (1000 mg, 6.53 mmol) in acetonitrile (10 ml) was treated as for preparation 62 to afford crude title compound as a colourless liquid (1.23 g, 101%).

reactant | 2-Bromophenol | 4.97 mmol, 861 mg | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 1-bromo-3-methoxypropane | 6.53 mmol, 1000 mg | BrCCCOC | C4H9BrO
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-Bromo-1-(2-methoxypropoxy)-benzene | 1.23 g, 101% | BrC1=C(C=CC=C1)OCC(C)OC | C10H13BrO2
